US07741363B2
A) 7-Fluoro-2-methyl-1H-indole
1600 ml of a 0.5M solution of isopropenylmagnesium bromide in THF are cooled to −25° C. under an argon atmosphere, a solution of 37.65 g of 2-fluoronitrobenzene in 250 ml of THF is then added dropwise and the mixture is left stirring at −20° C. for 1 hour. The reaction mixture is poured into a saturated NH4Cl solution, the aqueous phase is extracted with ether and the combined organic phases are concentrated under vacuum. The residue is taken up in water and extracted with DCM, the organic phase is washed with water and with a saturated NaCl solution and dried over MgSO4, and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, elution being carried out with a cyclohexane/EtOAc mixture (95/5; v/v). 12.35 g of the expected compound are obtained.

reactant | isopropenylmagnesium bromide | C(=C)(C)[Mg]Br
reactant | 2-fluoronitrobenzene | 37.65 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 7-Fluoro-2-methyl-1H-indole | 12.35 g | FC=1C=CC=C2C=C(NC12)C | C9H8FN
